US04210753
To 78 g of 8-(2-propynyloxy)-5-hydroxy-3,4-dihydrocarbostyril were added 102 g of epichlorohydrin, 60 g of potassium carbonate and 600 ml of methanol, and the resulting mixture was heated while refluxing for 2.5 hours on a water bath. After completion of the reaction, the methanol was evaporated, and water was added to the residue followed by extracting with chloroform. The chloroform layer was washed with water and dried over anhydrous sodium sulfate. The chloroform was evaporated under reduced pressure, and the residual crystals were recrystallized from isopropanol to obtain 67 g of 8-(2-propynyloxy)-5-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril having a melting point of 142°-143.5° C.

reactant | 8-(2-propynyloxy)-5-hydroxy-3,4-dihydrocarbostyril | 78 g | C(C#C)OC=1C=CC(=C2CCC(NC12)=O)O | C12H11NO3
reactant | epichlorohydrin | 102 g | C(Cl)C1CO1 | C3H5ClO
reactant | potassium carbonate | 60 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 600 ml | CO | CH4O
product | 8-(2-propynyloxy)-5-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril | 67 g | C(C#C)OC=1C=CC(=C2CCC(NC12)=O)OCC1CO1 | C15H15NO4
